US09145354B2
Step 3 To a stirred suspension of tert-butyl 1-(hydroxymethyl)cyclopropane-1-carboxylate (0.16 g, 0.929 mmol) and sodium hydrogen carbonate (0.312 g, 3.72 mmol) in DCM (5.57 mL) at room temperature was added Dess-Martin periodinane (0.788 g, 1.86 mmol). The mixture was stirred at room temperature for 1 hour before it was quenched by the addition of a 1:1 mixture of saturated NaHCO3 solution and saturated Na2S2O3 solution. After stirring for an additional 1 hour the phases were separated and the aqueous phase was extracted into DCM (×2). Combined organic extracts were dried (Na2SO4), filtered and concentrated giving tert-butyl 1-formylcyclopropane-1-carboxylate which was used without further purification, 0.141 g.

reactant | tert-butyl 1-(hydroxymethyl)cyclopropane-1-carboxylate | 0.929 mmol, 0.16 g | OCC1(CC1)C(=O)OC(C)(C)C | C9H16O3
reactant | sodium hydrogen carbonate | 3.72 mmol, 0.312 g | C(O)([O-])=O.[Na+]
reactant | Dess-Martin periodinane | 1.86 mmol, 0.788 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 5.57 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 1-formylcyclopropane-1-carboxylate | C(=O)C1(CC1)C(=O)OC(C)(C)C | C9H14O3
